US08314091B2
C: N-tert-Butyl-3-((4-(2-chloro-4-(3-isobutylureido)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-2-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (250 mg, 0.625 mmol) and 4-nitrophenol chloroformate (126 mg, 0.625 mmol) were combined and stirred in dichloromethane for 1 hour. Isobutylamine (87.8 mg, 1.2 mol, 0.12 mL) was added and the reaction was stirred for 30 minutes. The reaction mixture was diluted with water and flushed through a hydrophobic frit. The reaction was concentrated under reduced pressure to give a residue, which was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 4% methanol/dichloromethane) to afford the title compound (178.1 mg).

reactant | 3-((4-(4-Amino-2-chlorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.625 mmol, 250 mg | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)Cl | C23H29ClN4O2
reactant | 4-nitrophenol chloroformate | 0.625 mmol, 126 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Isobutylamine | 1.2 mol, 0.12 mL, 87.8 mg | C(C(C)C)N | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-tert-Butyl-3-((4-(2-chloro-4-(3-isobutylureido)benzoyl)piperazin-1-yl)methyl)benzamide | 178.1 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)NC(=O)NCC(C)C)Cl)=O)=O | C28H38ClN5O3
